US07491713B2
Step B: 9H-Fluoren-9-ylmethyl 4-[(t-butoxycarbonyl)hydrazino]piperidine-1-carboxylate
A solution of 9H-fluoren-9-ylmethyl 4-[(t-butoxycarbonyl)hydrazono]piperidine-1-carboxylate (10.0 g, 22.9 mmol) in acetic acid (150 mL) was shaken with platinum oxide (1.0 g) under 45 psi hydrogen on a Parr apparatus for 2 h. The solution was filtered and concentrated to give the title compound.

reactant | 9H-fluoren-9-ylmethyl 4-[(t-butoxycarbonyl)hydrazono]piperidine-1-carboxylate | 22.9 mmol, 10.0 g | C(C)(C)(C)OC(=O)NN=C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C25H29N3O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 9H-Fluoren-9-ylmethyl 4-[(t-butoxycarbonyl)hydrazino]piperidine-1-carboxylate | C(C)(C)(C)OC(=O)NNC1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C25H31N3O4
